US04070178
A mixture containing 12.6g (0.10 mole) of 4-mercapto phenol, 7.15g (0.05 mole) of copper (I) oxide, and 100 ml of absolute ethanol is heated at reflux under an atmosphere of dry nitrogen until conversion to the copper thiophenate is complete, as indicated by discharge of the reddish color of the copper (I) oxide. The resultant yellow mixture is cooled at 25°, 27.0 g (0.10 mole) of 4-bromo-3-nitro-benzotrifluoride, 100 ml of quinoline, and 10 ml of pyridine are added, and the reaction vessel is equipped with a Newman still head. The reaction is now slowly heated with concomitant removal of the ethanol to 90° and maintained at this temperature until the conversion is complete, as indicated by vpc techniques. The dark liquid is cooled to 70° C, cautiously poured into 500 ml of an ice cold molar hydrochloric acid solution, and filtered, whereupon the residue is extracted with several portions of ether. The combined ether extracts are washed with a 3.0 molar hydrochloric acid solution, water until neutral, a saturated sodium chloride solution, dried (magnesium sulfate), and concentrated in vacuo to afford a quantitative yield of crude product as a dark solid. Recrystalization foam etherhexane provides yellow crystals, mp 131°-134° of 4-(2-nitro-4-trifluoromethylphenylthio)phenol. This phenol is then reacted with 2-bromopropimate by the procedure of Example 3 above to provide the desired ethyl 2-[4-(2-nitro-4-trifluoromethylphenylthio)phenoxy] propionate, m.p. 63°-64° C.

reactant | 4-mercapto phenol | 0.10 mole, 12.6g | SC1=CC=C(C=C1)O | C6H6OS
reactant | 4-bromo-3-nitro-benzotrifluoride | 0.10 mole, 27.0 g | BrC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3BrF3NO2
reactant | quinoline | 100 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
catalyst | copper (I) oxide | 0.05 mole, 7.15g | [Cu-]=O
catalyst | copper thiophenate | S1C(=CC=C1)C(=O)[O-].[Cu+2].S1C(=CC=C1)C(=O)[O-]
solvent | ethanol | C(C)O | C2H6O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-(2-nitro-4-trifluoromethylphenylthio)phenol | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)SC1=CC=C(C=C1)O | C13H8F3NO3S
